US04017620
A mixture of ethyl 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate, hexamethylenetetramine and ethanol is refluxed for 4 hours in the same manner as in a) to give ethyl 7,8-dimethyl-6-phenyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxylate as colorless plates melting at 173° to 174° C.

reactant | ethyl 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1C)C)N1N=C(N=C1CCl)C(=O)OCC | C19H18ClN3O3S
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | ethanol | C(C)O | C2H6O
product | ethyl 7,8-dimethyl-6-phenyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxylate | CC1=C(SC2=C1C(=NCC=1N2N=C(N1)C(=O)OCC)C1=CC=CC=C1)C | C19H18N4O2S
